US09328110B2
The general method described in Step 3 of Example 15 was used to cyclize ethyl 4-(3-aminoquinolin-4-ylamino)butyrate (18.0 g, 65.9 mmol) by reaction with trimethyl orthobutyrate (10.4 g, 70.2 mmol) to provide ethyl 4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyrate (14.2 g) as a solid after chromatography on silica gel (elution with 5% methanol in dichloromethane).

reactant | ethyl 4-(3-aminoquinolin-4-ylamino)butyrate | 65.9 mmol, 18.0 g | NC=1C=NC2=CC=CC=C2C1NCCCC(=O)OCC | C15H19N3O2
reactant | trimethyl orthobutyrate | 70.2 mmol, 10.4 g | C(CCC)(OC)(OC)OC | C7H16O3
product | ethyl 4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyrate | 14.2 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(=O)OCC | C19H23N3O2
